US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (6.91 g) and 2-aminobenzamide (11.8 g), 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide was isolated as a white solid (6.2 g, 70% Yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.36 (s, 3 H), 6.67 (d, J=4.03 Hz, 1 H), 7.17 (td, J=7.59, 1.10 Hz, 1 H), 7.47 (d, J=8.05 Hz, 2 H), 7.57 (td, J=7.87, 1.46 Hz, 1 H), 7.75 (d, J=4.03 Hz, 1 H), 7.78 (s, 1 H), 7.83 (dd, J=8.05, 1.46 Hz, 1 H), 7.98 (dt, J=8.69, 1.97 Hz, 2 H), 8.30 (s, 1 H), 8.44 (dd, J=8.33, 1.01 Hz, 1 H), 12.32 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 6.91 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-aminobenzamide | 11.8 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=CC=C2 | C20H16ClN5O3S
